US07425568B2
a) 6-Methoxy-2-phenyl-3,4-dihydro-2H-naphthalen-1-one
A mixture of palladium(II) acetate (0.57 g), rac-2,2′-bis(diphenylphosphino)-1,1′-binaphtyl (1.91 g) and potassium tert-butoxide (4.15 g) in dry toluene was stirred under argon for 10 minutes. Bromobenzene (5.34 g) and 6-methoxy-1-tetralone (3.0 g) solvated in dry toluene were added and the mixture was stirred at 100° C. for 2 h. The reaction mixture was cooled to room temperature and poured into saturated aqueous ammonium chloride and extracted with ethyl ether. Organic extract was washed with brine, dried and evaporated. The crude product was purified by flash chromatography on silica gel using toluene and toluene-ethyl acetate (9:1) as an eluant. 1H NMR (400 MHz, d6-DMSO) δ: 7.87 (d, 1H, J 7.8 Hz), 7.16-7.33 (m, 5H), 6.91-6.94 (m, 2H), 3.85 (s, 3H), 3.82-3.88 (m, 1H), 3.06-3.14 (m, 1H), 2.92-2.98 (m, 1H), 2.23-2.38 (m, 2H).

reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphtyl | 1.91 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | potassium tert-butoxide | 4.15 g | CC(C)([O-])C.[K+]
reactant | Bromobenzene | 5.34 g | BrC1=CC=CC=C1 | C6H5Br
reactant | 6-methoxy-1-tetralone | 3.0 g | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.57 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-Methoxy-2-phenyl-3,4-dihydro-2H-naphthalen-1-one | COC=1C=C2CCC(C(C2=CC1)=O)C1=CC=CC=C1 | C17H16O2
